US05140041
1-(4'-Methoxyphenoxycarbonyl)-2-pyrrolidinone
To a solution of 4-methoxyphenyl chloroformate (3.73 g, 20.2 mmol) in anhydrous toluene (10 ml) was added a solution of 1-trimethylsilyl-2-pyrrolidinone (3.46 g, 22.0 mmol) in anhydrous toluene (10 ml). The mixture was stirred at room temperature for 30 min. The reaction mixture was evaporated under reduced pressure to dryness to give a solid material. Recrystallization from ethanol afforded 3.45 g of colorless prisms. Yield 73.4%

reactant | 4-methoxyphenyl chloroformate | 20.2 mmol, 3.73 g | ClC(=O)OC1=CC=C(C=C1)OC | C8H7ClO3
reactant | 1-trimethylsilyl-2-pyrrolidinone | 22.0 mmol, 3.46 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4'-Methoxyphenoxycarbonyl)-2-pyrrolidinone | 3.45 g, Yield 73.4% | COC1=CC=C(OC(=O)N2C(CCC2)=O)C=C1 | C12H13NO4
